US04149005
Using the same apparatus as in Example 1 and following the same modalites, 5 g (0.031 mole) of 1-phenyl-3-amino-2-pyrazoline were dissolved in 15 ml of acetic acid with addition of 0.2 g (0.00201 mole) of CuCl, under an oxygen head. Oxidation was completed after about 5 hours. Acetic acid was neutralized with sodium bicarbonate, it was filtered and the precipitate was extracted with ether. By evaporating the ethereal solution, 1.5 g of 1-phenyl-3-aminopyrazole were obtained.

reactant | 1-phenyl-3-amino-2-pyrazoline | 0.031 mole, 5 g | C1(=CC=CC=C1)N1N=C(CC1)N | C9H11N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | CuCl | 0.00201 mole, 0.2 g | Cl[Cu]
product | 1-phenyl-3-aminopyrazole | 1.5 g | C1(=CC=CC=C1)N1N=C(C=C1)N | C9H9N3
